US07713979B2
N-(3,5-dichloro-4-((1-cyclohexyl-2-oxopyrrolidin-3-yl)methyl)phenyl)methanesulfonamide
Charge a flask with 3-(4-amino-2,6-dichlorobenzyl)-1-cyclohexylpyrrolidin-2-one (250 mg, 0.73 mmol) and dissolve in methylene chloride (3 mL). Add triethylamine (0.16 ml) followed by sulfonyl chloride (0.11 ml, 1.5 mmol) and stir at room temperature for 1 hour. Pour into saturated aqueous bicarbonate and extract with methylene chloride. Dry over soium sulfate, filter and concentrate in vacuo. Purify residue over silica gel (30% ethyl acetate in hexanes) to afford 184 mg (60%) of the title compound. Mass spectrum (apci) m/z=419.1 (M+H).

reactant | 3-(4-amino-2,6-dichlorobenzyl)-1-cyclohexylpyrrolidin-2-one | 0.73 mmol, 250 mg | NC1=CC(=C(CC2C(N(CC2)C2CCCCC2)=O)C(=C1)Cl)Cl | C17H22Cl2N2O
reactant | triethylamine | 0.16 ml | C(C)N(CC)CC | C6H15N
reactant | sulfonyl chloride | 1.5 mmol, 0.11 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | bicarbonate | C([O-])(O)=O
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(3,5-dichloro-4-((1-cyclohexyl-2-oxopyrrolidin-3-yl)methyl)phenyl)methanesulfonamide | 184 mg, 60% | ClC=1C=C(C=C(C1CC1C(N(CC1)C1CCCCC1)=O)Cl)NS(=O)(=O)C | C18H24Cl2N2O3S
